US08048862B2
2-(2-Sulfamoylphenoxy)-N-methylacetamide can be prepared according to the method of Scheme XXXIX. Bromoacetyl bromide can be reacted methylamine hydrochloride in the presence of a base, such as sodium hydroxide to afford 2-bromo-N-methylacetamide. The phenoxy group of 1-(hydroxy)-2-sulfamoylbenzene can be alkylated with 2-bromo-N-methylacetamide in the presence of a base, such as cesium carbonate, sodium carbonate, potassium carbonate, sodium bicarbonate, potassium bicarbonate, and the like, to afford 2-(2-sulfamoylphenoxy)-N-methylacetamide.

reactant | 1-(hydroxy)-2-sulfamoylbenzene | OC1=C(C=CC=C1)S(N)(=O)=O | C6H7NO3S
reactant | 2-bromo-N-methylacetamide | BrCC(=O)NC | C3H6BrNO
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
product | 2-(2-sulfamoylphenoxy)-N-methylacetamide | S(N)(=O)(=O)C1=C(OCC(=O)NC)C=CC=C1 | C9H12N2O4S
